US09023760B2
Preparation of 3-Chloro-3-(2,5-dimethyl-phenyl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione (compound P1.5)
To a solution of 3-(2,5-dimethyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P2.1) (35 mg, 0.111 mmol) and sodium hydrogen carbonate (23 mg, 0.274 mmol) in chloroform (5 ml) at −5° C. was added sulfuryl chloride (0.009 ml, 15.0 mg, 0.111 mmol) in chloroform (0.25 ml) dropwise. The reaction mixture was stirred at 0° C. for 30 minutes and at room temperature overnight, poured on saturated aqueous sodium carbonate, the layers separated, the water phase extracted with ethyl acetate (3×20 ml), the combined organic phases washed with saturated aqueous sodium carbonate and brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate/cyclohexane 2:1). Yield: 26 mg of 3-chloro-3-(2,5-dimethyl-phenyl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione (title compound P1.5) as a pale yellow gum.

reactant | 3-(2,5-dimethyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | 0.111 mmol, 35 mg | CC1=C(C=C(C=C1)C)C=1C(N(C2(C1O)CCN(CC2)OC)C)=O | C18H24N2O3
reactant | sodium hydrogen carbonate | 0.274 mmol, 23 mg | C(O)([O-])=O.[Na+]
reactant | sulfuryl chloride | 0.111 mmol, 0.009 ml, 15.0 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-3-(2,5-dimethyl-phenyl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione | ClC1(C(N(C2(C1=O)CCN(CC2)OC)C)=O)C2=C(C=CC(=C2)C)C | C18H23ClN2O3
